US08975254B2
a) (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile
2-Chloro-4-(1H-pyrazol-3-yl)benzonitrile (3.00 g, 13.3 mmol) was reacted with N-Boc-(R)-(+)-2-amino-1-butanol (2.76 g, 14.6 mmol) in the presence of triphenylphosphine and DIAD using the method of Example 99. After Boc-deprotection 1.48 g (41%) of the title compound was obtained. 1H-NMR (400 MHz; d6-DMSO): δ. 0.87-0.94 (m, 3H), 1.11-1.40 (m, 2H), 2.97-3.06 (m, 1H), 4.01 (dd, 1H), 4.13 (dd, 1H), 4.68-4.84 (m, 1H), 6.96 (d, 1H), 7.86 (d, 1H), 7.94 (dd, 1H), 7.97 (dd, 1H), 8.09-8.11 (m, 1H). MS [M+1]: m/z [274.8+1].

reactant | 2-Chloro-4-(1H-pyrazol-3-yl)benzonitrile | 13.3 mmol, 3.00 g | ClC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C10H6ClN3
reactant | N-Boc-(R)-(+)-2-amino-1-butanol | 14.6 mmol, 2.76 g | C(=O)(OC(C)(C)C)N[C@@H](CO)CC | C9H19NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)CC | C14H15ClN4
